US07138420B2
Diphenylphosphorylazide (5.5 mmol, 1.5 g) was added to a solution of 3-fluoro-4-nitrobenzoic acid (5.4 mmol, 1 g) and triethylamine (5.6 mmol, 0.8 mL) in a 1:1 mixture of tert-butyl alcohol/dioxane (60 mL). The reaction mixture was refluxed for 2 days at 95° C. and the solvent was evaporated to give an oily residue. The residue was taken up in ethyl acetate (100 mL) and washed with 10% citric acid, 1N NaOH, brine and H2O. Evaporation of solvent afforded an orange residue that was subsequently purified by flash chromatography eluting with ethyl acetate/hexane to afford (tert-butoxy)-N-(3-fluoro-4-nitrophenyl)carboxamide (1.75 mmol, 0.45 g, yield 32%). 3-Fluoro-4-nitroaniline (0.36 g, 2.3 mmol) was isolated as a byproduct. Treatment of (tert-butoxy)-N-(3-fluoro-4-nitrophenyl)carboxamide with trifluoroacetic acid in methylene chloride afforded additional 3-fluoro-4-nitroaniline.

reactant | Diphenylphosphorylazide | 5.5 mmol, 1.5 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 3-fluoro-4-nitrobenzoic acid | 5.4 mmol, 1 g | FC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C7H4FNO4
reactant | triethylamine | 5.6 mmol, 0.8 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl alcohol dioxane | 60 mL | C(C)(C)(C)O.O1CCOCC1
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (tert-butoxy)-N-(3-fluoro-4-nitrophenyl)carboxamide | 1.75 mmol, 0.45 g, yield 32% | C(C)(C)(C)OC(=O)NC1=CC(=C(C=C1)[N+](=O)[O-])F | C11H13FN2O4
